### PR TITLE
[Merged by Bors] - feat(Algebra/BigOperators/Group/Finset): Lemma for product being a square

### PR DESCRIPTION
**Pull request by pimotte**
Added a small lemma that shows a product is a square if all the terms are squares

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Group/Finset.lean [hunk 1]
```diff
@@ -2054,6 +2054,17 @@ lemma prod_mul_eq_prod_mul_of_exists [DecidableEq α] {s : Finset α} {f : α 
   simp only [mem_erase, ne_eq, not_true_eq_false, false_and, not_false_eq_true, prod_insert]
   rw [mul_assoc, mul_comm, mul_assoc, mul_comm b₁, h, ← mul_assoc, mul_comm _ (f a)]
 
+@[to_additive]
+lemma IsSquare_finset_prod {s : Finset ι} [CommMonoid α] (f : ι → α)
```
Comment (erdOne) [inline Mathlib/Algebra/BigOperators/Group/Finset.lean:2058]:
```suggestion
lemma isSquare_prod {s : Finset ι} [CommMonoid α] (f : ι → α)
```

File: Mathlib/Algebra/BigOperators/Group/Finset.lean [hunk 2]
```diff
@@ -2054,6 +2054,17 @@ lemma prod_mul_eq_prod_mul_of_exists [DecidableEq α] {s : Finset α} {f : α 
...
+    (h : ∀ (c : s), IsSquare (f c)) : IsSquare (∏ i ∈ s, f i) := by
```
Comment (erdOne) [inline Mathlib/Algebra/BigOperators/Group/Finset.lean:2059]:
```suggestion
    (h : ∀ c ∈ s, IsSquare (f c)) : IsSquare (∏ i ∈ s, f i) := by
```

**Comment by semorrison** [comment]
bors merge
